US08865698B2
Step B: Preparation of (R)—N-(5-((R)-2-(2-(difluoromethyl)-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxypyrrolidine-1-carboxamide:
To a DCM (0.6 mL) solution of (R)-5-(2-(2-(difluoromethyl)-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (10 mg, 0.028 mmol, prepared as described in the following paragraph), was added CDI (9 mg, 0.056 mmol) at ambient temperature in one portion. After stirring two hours, (S)-pyrrolidin-3-ol (8 mg, 0.084 mmol) was added in one portion. The reaction was stirred overnight, then concentrated and directly purified by reverse-phase column chromatography, eluting with 0 to 50% acetonitrile/water to yield the final product as a solid (9 mg, 69%). MS (apci) m/z=461.2 (M+H).

reactant | (R)-5-(2-(2-(difluoromethyl)-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | FC(C1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N)F | C17H16F3N5
reactant | CDI | 0.056 mmol, 9 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (S)-pyrrolidin-3-ol | 0.084 mmol, 8 mg | N1C[C@H](CC1)O | C4H9NO
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-((R)-2-(2-(difluoromethyl)-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxypyrrolidine-1-carboxamide | 9 mg, 69% | FC(C1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2C[C@@H](CC2)O)F | C22H23F3N6O2
